US06982348B2
5) (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoic acid
To a solution of ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoate (4.20 g, 9.71 mmol) in methanol (20 ml) was added 2N aqueous sodium hydroxide solution (9.7 ml, 19.4 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was concentrated, acidified with 1N hydrochloric acid and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the objective substance (3.50 g, 89%)

reactant | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoate | 9.71 mmol, 4.20 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)O | C20H17F5O5
reactant | sodium hydroxide | 19.4 mmol, 2N, 9.7 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoic acid | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)O | C18H13F5O5
